US08034940B2
A 2.5 M hexane solution of BuLi (16.46 mL, 41.1 mmol) was added dropwise to a solution of diisopropylamine (6.11 mL, 42.9 mmol) in THF (150 mL) at −78° C. The mixture was stirred at 0° C. for 15 min and cooled to −78° C. Acetone (3.02 mL, 41.1 mmol) was added dropwise. After 2 h at −78° C., 2-chlorobenzoyl chloride (3.00 g, 17.14 mmol) in THF (10 mL) was added dropwise. The flask was rinsed with THF (2 mL) and added. After 1 h at −78° C., the mixture was quenched with brine (200 mL) and acidified to pH ˜1 with 1 N HCl. The organic solvents were evaporated in vacuo. The aqueous residue was extracted with EtOAc (3×100 mL). The combined extracts were dried (MgSO4) and concentrated to give crude 1-(2-chlorophenyl)butane-1,3-dione as a yellow liquid. The crude material was taken to next step without purification. MS (ES+) m/z: 197 (M+H).

reactant | BuLi | 41.1 mmol, 16.46 mL | [Li]CCCC
reactant | diisopropylamine | 42.9 mmol, 6.11 mL | C(C)(C)NC(C)C | C6H15N
reactant | Acetone | 41.1 mmol, 3.02 mL | CC(=O)C | C3H6O
reactant | 2-chlorobenzoyl chloride | 17.14 mmol, 3.00 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hexane | 2.5 M | CCCCCC | C6H14
product | 1-(2-chlorophenyl)butane-1,3-dione | ClC1=C(C=CC=C1)C(CC(C)=O)=O | C10H9ClO2
